US07939539B2
To a mixture 2-(3-benzyl-7-chloro-4-oxo-3,4-dihydroquinazolin-2-yl)-N,N-dimethylacetamide (1.1 g, 1 eq.) and sodium acetate (761 mg, 3 eq.) in acetic acid (15 ml), was added bromine (158 ul, 1 eq.) and the reaction was stirred at room temperature for 4 h. Water was added and the product extracted into ethyl acetate. The ethyl acetate layer was washed several times with water, saturated sodium bicarbonate, saturated sodium chloride, dried over magnesium sulfate, filtered, and concentrated to give 2-(3-benzyl-7-chloro-4-oxo-3,4-dihydroquinazolin-2-yl)-2-bromo-N,N-dimethylacetamide (1.44 g) as a yellow solid.

reactant | 2-(3-benzyl-7-chloro-4-oxo-3,4-dihydroquinazolin-2-yl)-N,N-dimethylacetamide | 1.1 g, 1 eq. | C(C1=CC=CC=C1)N1C(=NC2=CC(=CC=C2C1=O)Cl)CC(=O)N(C)C | C19H18ClN3O2
reactant | sodium acetate | 761 mg, 3 eq. | C(C)(=O)[O-].[Na+]
reactant | bromine | 158 ul, 1 eq. | BrBr | Br2
reactant | Water | O | H2O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-(3-benzyl-7-chloro-4-oxo-3,4-dihydroquinazolin-2-yl)-2-bromo-N,N-dimethylacetamide | 1.44 g | C(C1=CC=CC=C1)N1C(=NC2=CC(=CC=C2C1=O)Cl)C(C(=O)N(C)C)Br | C19H17BrClN3O2
